US07569727B2
100 ml of n-butyllithium 1.6M in hexane are added dropwise at 0° C. to a solution of 20 ml of bromoanisole in 600 ml of diethyl ether. After 2 hours, 20.2 ml of 3-ethoxy-2-cyclohexenone in 80 ml of diethyl ether are added dropwise. After 3 hours, 100 ml of 3N hydrochloric acid are added dropwise. The organic phase is separated off and concentrated, and the residue is purified over silica gel. 3-(4-Methoxyphenyl)-2-cyclohexen-1-one is obtained in the form of colourless crystals, m.p.: 83-85° C.

reactant | n-butyllithium | 1.6M, 100 ml | C(CCC)[Li]
reactant | bromoanisole | 20 ml | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 3-ethoxy-2-cyclohexenone | 20.2 ml | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | hydrochloric acid | 3N, 100 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 3-(4-Methoxyphenyl)-2-cyclohexen-1-one | COC1=CC=C(C=C1)C1=CC(CCC1)=O | C13H14O2
